US05434168
To a stirred and cooled (ice-bath) mixture of 13.0 g of 3,4-difluorophenol and 200 ml of N,N-dimethylformamide, there were added 4.8 g of a dispersion of sodium hydride in mineral oil (50%) and, after stirring for 1 hour, a solution of 22.8 g of (S)-(oxiranylmethyl) 4-methylbenzenesulfonate (ester) in some N,N-dimethylformamide. Stirring at room temperature was continued overnight. The reaction mixture was poured into icewater and the product was extracted with methylbenzene. The extract was washed with NaCl(dil.) and water and was then dried, filtered and evaporated. The residue was distilled (13.3 Pa, 55° C.), yielding 9.5 g (51.0%)of (S)-[(3,4-difluorophenoxy)methyl]-oxirane (interm. 1).

reactant | 3,4-difluorophenol | 13.0 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | sodium hydride | [H-].[Na+]
reactant | (S)-(oxiranylmethyl) 4-methylbenzenesulfonate | 22.8 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC1 | C10H12O4S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (S)-[(3,4-difluorophenoxy)methyl]-oxirane | 9.5 g, 51.0% | FC=1C=C(OC[C@H]2OC2)C=CC1F | C9H8F2O2
